US04876284
Example E9. cis-5-Hydroxy-1-methyl-2-(N-n-pentyl-N-n-propylamino) tetralin hydrochloride
cis-5-Methoxy-1-methyl-2-(N-n-pentyl-N-n-propyl-amino) tetralin hydrochloride (500 mg; 1.5 mmol) was heated in aqueous 48% HBr (3 ml) for 2 hours at 120° C. under N2. The mixture was evaporated and the residue was made alkaline with diluted NaHCO3 and extracted 3 times with ether. After drying (Na2SO4) and evaporation the product was precipitated as hydrochloride salt. Yield: 290 mg (60%) NMR (CDCl3), δ0.86 (t, 6H) δ1.17 (d, 3H), δ3.23-0.60 (m, 27H) δ5.36 (s, 1H phenolic) δ6.90 (m, 3H), MS (70 eV) m/z 289 (33%), 161 (100%), 232 (82%).

reactant | cis-5-Methoxy-1-methyl-2-(N-n-pentyl-N-n-propyl-amino) tetralin hydrochloride | 1.5 mmol, 500 mg | Cl.COC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCCCC
reactant | HBr | 3 ml | Br | BrH
product | cis-5-Hydroxy-1-methyl-2-(N-n-pentyl-N-n-propylamino) tetralin hydrochloride | Cl.OC1=C2CC[C@@H]([C@@H](C2=CC=C1)C)N(CCC)CCCCC | InChI=1S/C19H31NO.ClH/c1-4-6-7-14-20(13-5-2)18-12-11-17-16(15(18)3)9-8-10-19(17)21;/h8-10,15,18,21H,4-7,11-14H2,1-3H3;1H/t15-,18+;/m1./s1
